US06395734B1
To a suspension of 3-(2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (10 g, 60.8 mmol) in 60 ml of dichloromethane was added 1,1′-carbonyldiimidazole (11.6 g, 71.8 mmol) followed morpholine (5.5 ml, 60.8 mmol) and N,N-diisopropylethylamine (Hunig's base, 10 ml, 60.8 mmol). The dark red reaction mixture was stirred at room temperature overnight and poured into ice water. The organic layer was washed with brine until the wash had a pH of about 6, dried over anhydrous sodium sulfate, and concentrated. The crude product was purified on a silica gel column eluting with dichloromethane-methanol (98:2) to give 13.84 g (96%) of 3-(2,4-dimethyl-1H-pyrrol-3-yl)-1-morpholin-4-yl-propan-1-one.

reactant | 3-(2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 60.8 mmol, 10 g | CC=1NC=C(C1CCC(=O)O)C | C9H13NO2
reactant | 1,1′-carbonyldiimidazole | 71.8 mmol, 11.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 60.8 mmol, 5.5 ml | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 60.8 mmol, 10 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-(2,4-dimethyl-1H-pyrrol-3-yl)-1-morpholin-4-yl-propan-1-one | 13.84 g, 96% | CC=1NC=C(C1CCC(=O)N1CCOCC1)C | C13H20N2O2
